US06953787B2
N-Trifluoroacetyl-4-chlorophenethylamine
A solution of 4-chlorophenethylamine (1.0 g, 6.4 mmol) in dichloromethane (20 mL) was cooled to 0 C., treated with pyridine (1.0 mL, 12.8 mmol), trifluoracetic anhydride (1.6 g, 7.7 mmol) and then stirred for 1 hour while warming to 20 C. The product mixture was diluted with EtOAc (100 mL), washed sequentially with 10% aqueous HCl (50 mL), water (50 mL), brine (50 mL), dried with Na2SO4 and concentrated to give 1.6 g of a white solid.

reactant | 4-chlorophenethylamine | 6.4 mmol, 1.0 g | ClC1=CC=C(CCN)C=C1 | C8H10ClN
reactant | pyridine | 12.8 mmol, 1.0 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoracetic anhydride | 7.7 mmol, 1.6 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-4-chlorophenethylamine | 1.6 g | FC(C(=O)NCCC1=CC=C(C=C1)Cl)(F)F | C10H9ClF3NO
